US08865713B2
Step C: 4,5,6-Trichloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazole.
To a mixture of 4,5,6-trichloro-1H-benzoimidazole (0.098 g, 0.446 mmol) and THF (2.5 mL) was added DIPEA (0.155 mL, 0.892 mmol), followed by 1-chloromethoxy-2-methoxy-ethane (0.057 ml, 0.49 mmol) at 23° C. After stirring for 18 h, EtOAc was added. The organic layer was washed with saturated aqueous NaHCO3. The aqueous layer was further extracted with EtOAc. The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified (FCC) to yield the titled compound as a mixture of regioisomers (0.084 g, 61%). MS (ESI/CI): mass calcd. for C11H11Cl3N2O2, 308.0; m/z found, 309.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6): 8.59 (s, 1H), 8.58 (s, 1H), 8.09 (s, 1H), 8.04 (d, J=8.5 Hz, 1H), 5.84 (s, 2H), 5.71 (s, 2H), 3.59-3.57 (m, 2H), 3.56-3.53 (m, 2H), 3.42-3.38 (m, 4H), 3.18 (s, 3H), 3.17 (s, 3H).

reactant | 4,5,6-trichloro-1H-benzoimidazole | 0.446 mmol, 0.098 g | ClC1=C(C(=CC=2NC=NC21)Cl)Cl | C7H3Cl3N2
reactant | THF | 2.5 mL | C1CCOC1 | C4H8O
reactant | DIPEA | 0.892 mmol, 0.155 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-chloromethoxy-2-methoxy-ethane | 0.49 mmol, 0.057 ml | ClCOCCOC | C4H9ClO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4,5,6-Trichloro-1-(2-methoxy-ethoxymethyl)-1H-benzoimidazole | ClC1=C(C(=CC=2N(C=NC21)COCCOC)Cl)Cl | C11H11Cl3N2O2
